US08492549B2
(R)-3-(2,6-Dimethoxyphenoxy)propane-1,2-diol
A mixture of (S)-4-((2,6-dimethoxyphenoxy)methyl)-2,2-dimethyl-1,3-dioxolane (2.91 g, 10.85 mmol) and Amberlyst 15® (1.60 g) in methanol (30 ml) were stirred for 5 d. The mixture was filtered and evaporated to dryness to give 2.26 g of the title compound.

reactant | (S)-4-((2,6-dimethoxyphenoxy)methyl)-2,2-dimethyl-1,3-dioxolane | 10.85 mmol, 2.91 g | COC1=C(OC[C@@H]2OC(OC2)(C)C)C(=CC=C1)OC | C14H20O5
solvent | methanol | 30 ml | CO | CH4O
product | (R)-3-(2,6-Dimethoxyphenoxy)propane-1,2-diol | 2.26 g | COC1=C(OC[C@@H](CO)O)C(=CC=C1)OC | C11H16O5
